US06977298B2
A solution of methyl indole-4-carboxylate (40 mg, 0.23 mmol) in dichloroethane (2 mL) was treated with benzoyl chloride (0.69 mmol) at room temperature. The orange solution was cooled with an ice/water bath and treated with aluminum chloride (0.69 mmol). The dark-orange solution was warmed to room temperature over 1 hour, then poured into ice-cold aqueous 2M HCl. The aqueous solution was adjusted to pH=9-10 with KOH (s), and extracted with CH2Cl2 (10 mL×3). The organic solution was washed with water and brine, dried (Na2SO4), filtered, and concentrated. The crude product was purified by radial chromatography (1 mm silica gel; 3% MeOH in CHCl3) to give methyl 3-phenacyl-indole-4-carboxylate as an oil, 63 mg (99%). A solution of the 3-phenacyl carboxy indole (60 mg, 0.25 mmol) in MeOH (5 mL) and conc. HCl (0.1 mL) was treated with hydrazine hydrate (36 mg, 0.73 mmol) and the solution was heated at reflux for 3 h. The reaction was quenched with ice/water, and the aqueous layer was adjusted to pH=10-11 with KOH (s) and extracted with CH2Cl2 (30 mL×3). The organic solution was washed with water and brine, dried (Na2SO4), filtered, and concentrated. The crude product was crystallized (CH2Cl2/hexanes) to give 1,5-dihydro-3-phenyl-[1,2]diazepino[4,5,6-cd]-indol-6-one, 33 mg (51%), as a bright-yellow solid. mp 177-179° C.; 1H NMR (300 MHz, d6-DMSO) δ 7.22 (m, 2H), 7.47 (m, 3H), 7.58 (m, 4H), 10.45 (s, 1H), 11.92 (br s, 1H); Anal. (C10H7N3O.0.75 H2O) C, H, N.

reactant | 3-phenacyl carboxy indole | 0.25 mmol, 60 mg | C(C(=O)C1=CC=CC=C1)C1=C(NC2=CC=CC=C12)C(=O)O | C17H13NO3
reactant | hydrazine hydrate | 0.73 mmol, 36 mg | O.NN
reactant | MeOH | 5 mL | CO | CH4O
solvent | HCl | 0.1 mL | Cl | ClH
product | 1,5-dihydro-3-phenyl-[1,2]diazepino[4,5,6-cd]-indol-6-one | C1(=CC=CC=C1)C1=NNC(C=2C=3C1=CNC3C=CC2)=O | C16H11N3O
